US08735597B2
(iii) Synthesis of 2-(4-Iodophenyl)benzoxazole
In a 300 mL three-neck flask were put 15 g (44 mmol) of 4-iodo-N-(2-hydroxyphenyl)benzamide and 24 g (0.14 mol) of para-toluenesulfonic acid monohydrate. The atmosphere in the flask was replaced with nitrogen. To this mixture was added 300 mL of toluene. The resulting mixture was stirred under a nitrogen stream at 110° C. for 4 hours. After that, this reaction mixture was added to about 300 mL of water, followed by extraction with ethyl acetate. Then, the organic layer and the extract were combined and washed with a saturated aqueous sodium hydrogen carbonate solution and saturated brine in that order. After that, magnesium sulfate was added to the organic layer to dry it. Next, this mixture was suction filtered through Celite. The resulting filtrate was concentrated to give a solid. This solid was recrystallized with a mixed solvent of ethyl acetate and hexane to give 11 g of a white solid in a yield of 75%.

reactant | 4-iodo-N-(2-hydroxyphenyl)benzamide | 44 mmol, 15 g | IC1=CC=C(C(=O)NC2=C(C=CC=C2)O)C=C1 | C13H10INO2
reactant | para-toluenesulfonic acid monohydrate | 0.14 mol, 24 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | about 300 mL | O | H2O
product | 2-(4-Iodophenyl)benzoxazole | 11 g, yield of 75% | IC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8INO
